US07595405B2
To a stirred solution of 3-Iodo-5-nitro-benzoic acid methyl ester (5.0 g, 0.016 mol), bis(pinacolato)diborane (4.55 g, 0.018 mol) and KOAc (4.80 g, 0.049 mol) in DMSO (50 mL) was added PdCl2(dpf)2 (0.40 g, 0.50 mmol). The mixture was flushed with N2 and heated to 80 C. for 2 h. After the reaction mixture was cooled down to room temperature, H2O (20 mL) was added and the mixture was extracted with Et2O (3×30 mL). The organic layer was separated and washed with H2O, brine and dried over Na2SO4. Solvent was removed and the residue was purified by column chromatography (EtOAc/hexane=1:3) to afford 3-Nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester as a white solid (3.30 g, 67%) MS (M+H)=308.

reactant | 3-Iodo-5-nitro-benzoic acid methyl ester | 0.016 mol, 5.0 g | COC(C1=CC(=CC(=C1)[N+](=O)[O-])I)=O | C8H6INO4
reactant | bis(pinacolato)diborane | 0.018 mol, 4.55 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.049 mol, 4.80 g | CC(=O)[O-].[K+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 3-Nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 3.30 g, 67% | COC(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-])=O | C14H18BNO6
